US07615562B2
[4-(4-Methylsulfanyl-phenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared according to Method C. To a degassed suspension of (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (1.07 g, 3.97 mmol) in 10 ml of 1-propanol were added bis(triphenylphosphine)palladium dichloride (112 mg, 0.16 mmol), 4-(methylthio)phenylboronic acid (1.00 g, 5.95 mmol) and 8 ml of 2N-solution of sodium carbonate. The mixture was stirred at 85° C. for 2 hours. The reaction mixture was diluted with EtOAc, filtered through Celite and washed with water. The organic layer was dried and concentrated. The solid was purified by chromatography on silicagel (EtOAc/MeOH/ammonia:66/33/1) and crystallization from n-hexane. Yield: 1.12 g (79%).

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 3.97 mmol, 1.07 g | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 4-(methylthio)phenylboronic acid | 5.95 mmol, 1.00 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-propanol | 10 ml | C(CC)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.16 mmol, 112 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(4-Methylsulfanyl-phenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | CSC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C20H28N4S
